US05720934
c. N-(5-carboethoxypentyl)-N,N'-bis(2-methyl-2-triphenylmethylthiopropyl)ethylenediamine
K2CO3 (1.92 g, 13.9 mmol, 100 mol %) was added to N,N'-bis(2-methyl-2-triphenylmethylthiopropyl)ethylenediamine (10.03 g, 13.9 mmol) in CH3CN (60 mL), followed by ethyl 5-bromovalerate (3.30 mL, 20.8 mmol, 150 mol %). The reaction was heated at reflux under argon overnight. The solution was then concentrated to a paste and partitioned between 0.25M KOH (100 mL) and ethyl acetate (100 mL). The aqueous layer was extracted with ethyl acetate (1x 50 mL) and the combined ethyl acetate layers were washed with 50 mL water and NaCl solution (2x 50 mL), dried with Na2SO4 and concentrated to an orange oil. Purification by flash chromatography (300 g flash silica, 100% CHCl3 to 5% MeOH/CHCl3) gave pure tide compound (7.75 g, 66% yield). FABMS analysis yielded an (MH+) of 849 (compared with a calculated molecular weight of 849.24 for the compound C55H64N2O2 S2).

reactant | K2CO3 | 13.9 mmol, 1.92 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N,N'-bis(2-methyl-2-triphenylmethylthiopropyl)ethylenediamine | 13.9 mmol, 10.03 g | CC(CNCCNCC(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H52N2S2
reactant | ethyl 5-bromovalerate | 20.8 mmol, 3.30 mL | BrCCCCC(=O)OCC | C7H13BrO2
solvent | CH3CN | 60 mL | CC#N | C2H3N
product | N-(5-carboethoxypentyl)-N,N'-bis(2-methyl-2-triphenylmethylthiopropyl)ethylenediamine | 7.75 g, 66% yield | C(=O)(OCC)CCCCCN(CCNCC(C)(C)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C)(SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C56H66N2O2S2
